### ISSUE TITLE
lean_diagnostic_messages misses kernel errors

### ISSUE THREAD

**Issue by LorenzoLuccioli** [oOo0oOo/lean-lsp-mcp#63]
Hi, I found what seems to be an issue with lean_diagnostic_messages. It fails to report certain kernel errors, and in some cases misses normal errors as well.

Here is a minimal example:

```lean
import Mathlib.Data.Real.Basic

structure test where
  x : ℝ
  deriving Repr

lemma test_lemma : False := by rfl
```

When calling lean_diagnostic_messages on this file, the tool returns:
```bash
{
  "jsonrpc": "2.0",
  "id": 103,
  "result": {
    "content": [],
    "structuredContent": {
      "result": []
    },
    "isError": false
  }
}
```

So it completely misses both the kernel error coming from `deriving Repr` and the regular error below (`tactic 'rfl' failed`).

Interestingly, the issue disappears if there is at least one other error earlier in the file. For example:

```lean
import Mathlib.Data.Real.Basic

lemma test_lemma1 : False := by rfl

structure test where
  x : ℝ
  deriving Repr

lemma test_lemma2 : False := by rfl
```

In this case the tool reports everything correctly, including the kernel error:

```bash
{
  "jsonrpc": "2.0",
  "id": 103,
  "result": {
    "content": [
      {
        "type": "text",
        "text": "l7c12-l7c16, severity: 1\n(kernel) invalid declaration, it uses unsafe declaration 'Real.instRepr'"
      },
      {
        "type": "text",
        "text": "l7c12-l7c16, severity: 1\nfailed to compile definition, consider marking it as 'noncomputable'..."
      },
      {
        "type": "text",
        "text": "l9c33-l9c36, severity: 1\ntactic 'rfl' failed..."
      }
    ]
  }
}
```

So the behavior seems dependent on whether a previous error exists. When the kernel error is the first error encountered, it is not reported at all, and normal errors after it are also missed.

## Extra context:

I noticed this while using the MCP inside Codex, but I reproduced it by calling the tool manually. I am on a MacBook Air M3, using this toolchain version: `v4.19.0-rc2`.

Here is the wrapper I used for testing:

```bash
post_mcp () {
  curl -sN \
    -H "Mcp-Session-Id: $MCP_SESSION_ID" \
    -H 'Accept: application/json, text/event-stream' \
    -H 'Content-Type: application/json' \
    --data "$1" \
    http://127.0.0.1:8000/mcp | sed -n 's/^data: //p' | jq
}

ldiag () {
  post_mcp "{
    \"jsonrpc\":\"2.0\",\"id\":103,
    \"method\":\"tools/call\",
    \"params\":{\"name\":\"lean_diagnostic_messages\",\"arguments\":{\"file_path\":\"$1\"}}
  }"
}

F="path to the file"
ldiag "$F"
```

Let me know if any other information would help.

**Comment by oOo0oOo** [comment]
Thanks for the detailed bug report! 
This might be related to these two recent reports:
https://github.com/oOo0oOo/lean-lsp-mcp/issues/62
https://github.com/oOo0oOo/lean-lsp-mcp/pull/61

I am looking into this now.

**Comment by oOo0oOo** [comment]
I have made an attempt to fix this in the underlying leanclient.
This is part of release 0.13.1.

**Comment by oOo0oOo** [comment]
Is this bug still open?

**Comment by jessealama** [comment]
> Is this bug still open?

I can confirm that I still see issues where an empty list of errors is returned when using the diagnostics tool to inspect a region, whereas the same tool, without a begin/end, reports errors. I'm not sure if it's due to timing, caching, or a simple bug. What I'm describing isn't exactly the same as the bug being reported here, since the OP said there were issues with the diagnostics tool when used on a whole file whereas I'm talking about regions. But at a surface level, it's a similar phenomenon.

**Comment by LorenzoLuccioli** [comment]
Sorry for the late reply. I finally had time to revisit this and I can’t reproduce it anymore. I tested both the old toolchain (`v4.19.0-rc2`) and a newer one (`v4.28.0-rc1`), and the issue seems to be gone. If no one else is seeing the same problem, I think we can close this issue.

**Comment by jessealama** [comment]
I'm OK with closing this issue if others aren't seeing this behavior. If it's truly an issue it will come up again.

**Comment by oOo0oOo** [comment]
OK, I'll close this for now. Anyone should feel free to re-open this if they encounter this bug!
